US06353010B1
2-(1-Hydroxyethyl)-4-methoxybenzoxazole
4-Methoxybenzoxazole (6.0 g) was dissolved in tetrahydrofuran (225 ml) and cooled to −78° C. under nitrogen. n-Butyllithium (26.5 ml of a 1.6M solution in hexanes) was added, and the mixture stirred at −78° C. for 30 minutes before addition of magnesium bromide etherate (11.5 g). The resulting heterogeneous mixture was stirred at −45° C. for 15 minutes, and then cooled to −78° C. A solution of acetaldehyde (2.3 ml) was added from a pre-cooled syringe. The mixture was stirred at −78° C. for 3 h, then allowed to warm to room temperature and stirred overnight. It was quenched with aqueous sodium bicarbonate (50 ml, gradually) and the tetrahydrofuran evaporated in vacuo. The residue was extracted with dichloromethane (3×150 ml). The combined organic phases were dried over magnesium sulphate, evaporated in vacuo and purified by flash chromatography eluting with 30%-50% ethyl acetate in hexane to afford the title compound as a brown solid (6.25 g).

reactant | 4-Methoxybenzoxazole | 6.0 g | COC1=CC=CC2=C1N=CO2 | C8H7NO2
reactant | n-Butyllithium | C(CCC)[Li]
reactant | magnesium bromide | 11.5 g | [Br-].[Mg+2].[Br-]
reactant | acetaldehyde | 2.3 ml | C(C)=O | C2H4O
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
product | 2-(1-Hydroxyethyl)-4-methoxybenzoxazole | 6.25 g | OC(C)C=1OC2=C(N1)C(=CC=C2)OC | C10H11NO3
